US07425636B2
Methane sulfonamide (0.476 g, 5.00 mmol) was dissolved in N,N-dimethylformamide (10 mL), and to the solution was added 60% sodium hydride (0.275 g, 5.00 mmol) and the mixture was stirred in a water bath for 20 minutes. To the reaction mixture was added 3-chloropropiophenone (843 mg, 5.00 mol). The mixture was stirred in a water bath for one hour, and further stirred at room temperature for 15 hours. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=20/1) to obtain 3-(methylsulfonylamino)propiophenone (240 mg, 21%). Step 2: In a manner similar to that in Step 1 of Example 1, 3-(methylsulfonylamino)propiophenone=thiosemicarbazone (219 mg, 45%) was obtained from 3-(methylsulfonylamino)propiophenone (388 mg, 1.71 mmol) prepared above and thiosemicarbazide (156 mg, 1.71 mmol). Step 3: In a manner similar to that in Step 2 of Example 1, Compound 99 (218 mg, 86%) was obtained from 3-(methylsulfonylamino)propiophenone=thiosemicarbazone (200 mg, 0.696 mmol) obtained above, pivaloyl chloride (342 μL, 2.78 mmol) and pyridine (219 μL, 2.78 mmol).

reactant | Methane sulfonamide | 5.00 mmol, 0.476 g | CS(=O)(=O)N | CH5NO2S
reactant | sodium hydride | 5.00 mmol, 0.275 g | [H-].[Na+]
reactant | 3-chloropropiophenone | 5.00 mol, 843 mg | ClCCC(=O)C1=CC=CC=C1 | C9H9ClO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-(methylsulfonylamino)propiophenone | 240 mg, 21% | CS(=O)(=O)NCCC(=O)C1=CC=CC=C1 | C10H13NO3S
